US07786108B2
Step 1. Preparation of 5-formyl-2-hydroxy-benzoic acid methyl ester
Heat a mixture of 5-formyl-2-hydroxy-benzoic acid (5.0 g, 30.09 mmol) concentrated sulfuric acid (5 mL) in methanol (100 mL) at reflux for 24 h. Cool the mixture to room temperature and concentrate under reduced pressure. Purify the resulting residue by chromatography over silica gel, eluting with hexanes/ethyl acetate (80:20), to provide the title compound as a colorless oil (4.28 g, 79%). 1H NMR (CDCl3, 300 MHz) δ 3.88 (s, 3H), 4.52 (bs, 1H), 7.05 (d, J=8.56 Hz, 1H), 7.84 (d, J=8.56 Hz, 1H), 8.40 (s, 1H), 9.85 (s, 1H); TLC Rf=0.34 (3:1 Hexanes/Ethyl Acetate).

reactant | 5-formyl-2-hydroxy-benzoic acid | 30.09 mmol, 5 mL, 5.0 g | C(=O)C=1C=CC(=C(C(=O)O)C1)O | C8H6O4
reactant | methanol | 100 mL | CO | CH4O
product | 5-formyl-2-hydroxy-benzoic acid methyl ester | 4.28 g, 79% | COC(C1=C(C=CC(=C1)C=O)O)=O | C9H8O4
